US08071584B2
1-[(5-Bromo-2-thienyl)sulfonyl]azetidine
Azetidine (0.258 mL, 3.82 mmol) was added to a solution of 5-bromo-2-thiophenesulfonyl chloride (500 mg, 1.912 mmol) in DCM (4.8 mL) in a 4 dram vial. The reaction was stirred at room temperature for 5 min. The reaction mixture was concentrated under a stream of nitrogen at 50° C. and dried under high vacuum. The residue was taken up in EtOAc (10 mL) and extracted with saturated NaHCO3 (2×2 mL). The organic layer was dried (Na2SO4), concentrated under a stream of nitrogen at 50° C., and dried under high vacuum, giving 501 mg of the title compound.

reactant | Azetidine | 3.82 mmol, 0.258 mL | N1CCC1 | C3H7N
reactant | 5-bromo-2-thiophenesulfonyl chloride | 1.912 mmol, 500 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
solvent | DCM | 4.8 mL | C(Cl)Cl | CH2Cl2
product | 1-[(5-Bromo-2-thienyl)sulfonyl]azetidine | 501 mg | BrC1=CC=C(S1)S(=O)(=O)N1CCC1 | C7H8BrNO2S2
